US03952008
(3-Amino-4-phenyl-1-(3-trifluoromethyl-4-methylbenzyl)-pyrazol-5-one). ##SPC17##
31.5 g of 3-trifluoromethyl-4-methylbenzylhydrazine were added dropwise under nitrogen to a solution of 35.3 g of α-phenyl-β-amino-β-ethoxyacrylic acid ethyl ester and 1 g of p-toluenesulphonic acid in 150 ml of ethanol. After stirring overnight, the solvent was distilled off in vacuo and the residue was recrystallized from dimethylformamide.

reactant | 3-trifluoromethyl-4-methylbenzylhydrazine | 31.5 g | FC(C=1C=C(CNN)C=CC1C)(F)F | C9H11F3N2
reactant | α-phenyl-β-amino-β-ethoxyacrylic acid ethyl ester | 35.3 g | C(C)OC(C(=C(OCC)N)C1=CC=CC=C1)=O | C13H17NO3
reactant | p-toluenesulphonic acid | 1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 3-Amino-4-phenyl-1-(3-trifluoromethyl-4-methylbenzyl)-pyrazol-5-one | NC=1NN(C(C1C1=CC=CC=C1)=O)CC1=CC(=C(C=C1)C)C(F)(F)F | C18H16F3N3O
